US07589109B2
Step 2. [Methoxy(tetrahydro-4H-pyran-4-ylidene)methoxy](trimethyl)silane
To a stirred solution of diisopropylamine (1.6 g, 0.016 mol) in tetrahydrofuran (4 mL) was added dropwise n-butyllithium (1.59 M in hexane, 9.2 mL, 0.014 mol) at 0° C. under nitrogen, and stirred for 20 min. Then, the reaction mixture was cooled to −40° C., methyl tetrahydro-2H-pyran-4-carboxylate (1.9 g, 0.013 mol) and trimethylsilyl chloride (2.0 mL, 0.015 mol) in tetrahydrofuran (1 mL) was added, and the resulting mixture was gradually warmed to room temperature over 3 h. The volatile components were removed by evaporation and the residue was filtered through a pad of Celite washing with hexane. The filtrate was dried in vacuo to give 2.9 g (quant.) of the title compound as a clear yellow oil.

reactant | diisopropylamine | 0.016 mol, 1.6 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.014 mol, 1.59 M, 9.2 mL | C(CCC)[Li]
reactant | methyl tetrahydro-2H-pyran-4-carboxylate | 0.013 mol, 1.9 g | O1CCC(CC1)C(=O)OC | C7H12O3
reactant | trimethylsilyl chloride | 0.015 mol, 2.0 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | [Methoxy(tetrahydro-4H-pyran-4-ylidene)methoxy](trimethyl)silane | COC(O[Si](C)(C)C)=C1CCOCC1 | C10H20O3Si
